US06197798B1
Imidazole-2-carboxaldehyde (2.45 g, 25.5 mmol) is added to a solution of 6-methyl-4′-trifluoromethyl-biphenyl-2-carboxylic acid (2-amino-indan-5-yl)-amide hydrochloride (11.1 g, 24.9 mmol) and triethylamine (5.05 mL, 50.0 mmol) in methanol (500 mL). The mixture is stirred at room temperature for 16 hours. Polymer supported borohydride (Aldrich, borohydride on Ambelite IR-400, 2.5 mmol/g, 10.0 g, 25.0 mmol) is added, the mixture stirred for 2 hours, filtered and concentrated under reduced pressure. The residue is taken up in ethanol (100 mL) and a saturated solution of hydrochloric acid gas in diethyl ether (10 mL) is added. The white precipitate is collected to yield 6-methyl-4′-trifluoromethylbiphenyl-2-carboxylic acid [2-(2-imidazolylmethylamino)-indan-5-yl] amide hydrochloride m.p. 240-242° C. Free base has m.p. 169-170° C.

reactant | Imidazole-2-carboxaldehyde | 25.5 mmol, 2.45 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | 6-methyl-4′-trifluoromethyl-biphenyl-2-carboxylic acid (2-amino-indan-5-yl)-amide hydrochloride | 24.9 mmol, 11.1 g | Cl.NC1CC2=CC=C(C=C2C1)NC(=O)C=1C(=C(C=CC1)C)C1=CC=C(C=C1)C(F)(F)F
reactant | triethylamine | 50.0 mmol, 5.05 mL | C(C)N(CC)CC | C6H15N
reactant | borohydride | 25.0 mmol, 10.0 g | [BH4-]
solvent | methanol | 500 mL | CO | CH4O
product | 6-methyl-4′-trifluoromethylbiphenyl-2-carboxylic acid [2-(2-imidazolylmethylamino)-indan-5-yl] amide hydrochloride | Cl.N1C(=NC=C1)CNC1CC2=CC=C(C=C2C1)NC(=O)C=1C(=C(C=CC1)C)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C28H25F3N4O.ClH/c1-17-3-2-4-24(26(17)18-5-8-21(9-6-18)28(29,30)31)27(36)35-22-10-7-19-13-23(15-20(19)14-22)34-16-25-32-11-12-33-25;/h2-12,14,23,34H,13,15-16H2,1H3,(H,32,33)(H,35,36);1H
